US08198311B2
(h)(i) 2-(4-(1-(4-Fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanamide (23 mg, 0.06 mmol) in 3 mL THF was treated with LiAlH4 (0.2 mL of 1.0 M solution in THF) and stirred for 18 h. The reaction was quenched with EtOAc, TFA was added, and the reaction was purified by HPLC to give 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropan-1-amine. (M+H)+=368. This material was coupled to 3,3,3-trifluoropropionic acid using General Coupling Method A. After 16 h, the reaction was purified by HPLC to give 6 mg of 3,3,3-trifluoro-N-(2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropyl)propanamide. (M+H)+=478.

reactant | 2-(4-(1-(4-Fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanamide | 0.06 mmol, 23 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(C(=O)N)(C)C | C22H24FN3O2
reactant | LiAlH4 | 1.0 M, 0.2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropan-1-amine | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(CN)(C)C | C22H26FN3O
